US04420480
Step B: Preparation of 2-Acetamido-7-methoxy-3,4-dihydronaphthalen-1(2H)-one
A mixture of 2-oximino-7-methoxy-3,4-dihydronaphthalen-1(2H)-one (8.7 gm, 0.04 m), palladium on carbon (10%, 1 gm) tetrahydrofuran (150 ml) and acetic anhydride (25 ml) was hydrogenated on a Parr apparatus for 3 hours. The catalyst was filtered, and the solvents were removed under reduced pressure to yield the product as an oil, which was used in the next step without further purification.

reactant | 2-oximino-7-methoxy-3,4-dihydronaphthalen-1(2H)-one | 8.7 gm | N(O)=C1C(C2=CC(=CC=C2CC1)OC)=O | C11H11NO3
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on carbon | 150 ml, 1 gm | [Pd] | Pd
product | 2-Acetamido-7-methoxy-3,4-dihydronaphthalen-1(2H)-one | C(C)(=O)NC1C(C2=CC(=CC=C2CC1)OC)=O | C13H15NO3
